US04013652
Glacial acetic acid (700 ml) is added dropwise to a vigorously stirred mixture of 62 g of 2,3,4,5-tetrahydro-5-nitroso-1,5-benzothiazepine, 49 g of 4-piperidone hydrochloride monohydrate, 400 ml of anhydrous ethanol, and 140 g of zinc dust, cooled in an ice-bath. After the addition is complete, the mixture is stirred at room temperature for 1 hr. and filtered. The residue is washed with a small quantity of ethanol and the combined filtrates heated at 65°-70° C for 1 hour and then stripped of ethanol and acetic acid under reduced pressure. The residual viscous liquid is dissolved in minimum quantity of water and added with stirring, to excess of well-cooled 25% aqueous sodium hydroxide. The mixture is thoroughly extracted with chloroform and the combined chloroform extracts washed well with water, dried over anhydrous magnesium sulfate and stripped of the solvent under reduced pressure. The residue on trituration with ether and cooling yields 2,3,4,5-tetrahydro-5-[(4-piperidylidene)amino]-1,5-benzothiazepine as cream colored crystals, m.p. 113°-115°. A sample of this hydrazone melts at 115°-117° C. after recrystallization from a mixture of benzene and hexane.

reactant | acetic acid | 700 ml | C(C)(=O)O | C2H4O2
reactant | 2,3,4,5-tetrahydro-5-nitroso-1,5-benzothiazepine | 62 g | N(=O)N1CCCSC2=C1C=CC=C2 | C9H10N2OS
reactant | 4-piperidone hydrochloride monohydrate | 49 g | O.Cl.N1CCC(CC1)=O
catalyst | zinc | 140 g | [Zn] | Zn
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 2,3,4,5-tetrahydro-5-[(4-piperidylidene)amino]-1,5-benzothiazepine | N1CCC(CC1)=NN1CCCSC2=C1C=CC=C2 | C14H19N3S
